US06696437B1
a) Ethyl 1-(2-(N,N-diethylamino)-1-ethyl)benzimidazole-5-carboxylate
5.4 g (28.4 mmol) of ethyl benzimidazole-5-carboxylate, 9.8 g (56.8 mmol) of N-(2-chloro-1-ethyl)-N,N-diethylamine and 7.9 g (56.8 mmol) of potassium carbonate were heated in 100 ml of dimethylformamide at 100° C. for 4 hours. The mixture was then filtered, the filtrate was concentrated in vacuo, and the resulting residue was purified by chromatography (mobile phase: ethyl acetate/acetone=1/1). 2.6 g of an isomer mixture containing ethyl 3-(2-(N,N-diethylamino)-1-ethyl)benzimidazole-5-carboxylate in addition to the product were obtained.

reactant | ethyl benzimidazole-5-carboxylate | 28.4 mmol, 5.4 g | N1=CNC2=C1C=CC(=C2)C(=O)OCC | C10H10N2O2
reactant | N-(2-chloro-1-ethyl)-N,N-diethylamine | 56.8 mmol, 9.8 g | ClCCN(CC)CC | C6H14ClN
reactant | potassium carbonate | 56.8 mmol, 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 1-(2-(N,N-diethylamino)-1-ethyl)benzimidazole-5-carboxylate | C(C)N(CC)CCN1C=NC2=C1C=CC(=C2)C(=O)OCC | C16H23N3O2
